US07514448B2
3-(2-Chloroethoxy)-phenylacetic acid:
Methyl 3-(2-chloro-ethoxy)-phenylacetate (7.0 g, 32.9 mmol) was dissolved in methanol (40 mL) and 6N NaOH (5.5 mL) was added. The mixture was stirred at room temperature overnight then acidified by addition of 6N hydrochloric acid (5.5 mL). A white precipitate formed which was filtered, washed with 1N HCl, water and dried. 3-(3-Chloroethoxy)-phenylacetic acid (6.5 g, 99%). 1H NMR (500 MHz, CDCl3) δ3.55 (s, 2H), 3.75 (t, 2H), 4.15 (t, 2H), 6.78 (dd, 1H), 6.80 (d, 1H), 6.84 (dd, 1H), 7.16 (dd, 1H).

reactant | Methyl 3-(2-chloro-ethoxy)-phenylacetate | 32.9 mmol, 7.0 g | ClCCOC=1C=C(C=CC1)CC(=O)OC | C11H13ClO3
reactant | NaOH | 6N, 5.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 5.5 mL | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | 3-(2-Chloroethoxy)-phenylacetic acid | ClCCOC=1C=C(C=CC1)CC(=O)O | C10H11ClO3
